US05387747
A solution of sodium methylate, prepared from 11.8 g of sodium and 350 ml of methanol, is introduced dropwise into a suspension of 117.7 g of 4-bromobenzyl bromide in 350 ml of methanol. The mixture is stirred for 2 h at room temperature and left to stand overnight. The methanol is evaporated off, the residue is taken up in ether and the organic phase is washed with water and then dried and concentrated to give a yellow oil, which is purified by distillation to give 102 g of bromobenzyl methyl ether as a colorless liquid.

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 11.8 g | [Na] | Na
reactant | 4-bromobenzyl bromide | 117.7 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | methanol | 350 ml | CO | CH4O
solvent | methanol | 350 ml | CO | CH4O
product | bromobenzyl methyl ether | 102 g | COC(C1=CC=CC=C1)Br | C8H9BrO
